US05998433
a) Synthesis of N-(2-methoxyethyl)-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
To a solution of 0.341 g (1.029 mmol) of 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.18 g (1.2 mmol) of N-methyl-2-methoxyethylammonium acetate and 0.10 g (1.2 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 1.029 mmol, 0.341 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C21H17NO3
reactant | N-methyl-2-methoxyethylammonium acetate | 1.2 mmol, 0.18 g | C(C)(=O)[O-].C[NH2+]CCOC
reactant | formaldehyde | 1.2 mmol, 0.10 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | N-(2-methoxyethyl)-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | COCCN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C26H28N2O4
